US07141567B2
X. (7R,8R,9R)-10-Acetyl-3-bromo-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridine
To a of 0° C. cooled solution of 2.20 g (4.60 mmol) (7R,8R,9R)-10-acetyl-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo(1.2-h][1.7]naphthyridine in ethanol (20 ml) is added 0.84 g (4.60 mmol) NBS and the mixture is stirred for 1 h. Afterwards the reaction is quenched by adding of saturated aqueous sodium hydrogen carbonate solution and it is extracted twice with dichloromethane. The combined organic layers are washed with brine, dried over sodium sulphate and evaporated in vacuo. The crude product is purified by crystallisation (cyclohexane) to give 1.60 g (2.86 mmol/62%) of the title compound as a colourless solid with a melting point of 166–167° C. (cyclohexane).

reactant | (7R,8R,9R)-10-acetyl-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo(1.2-h][1.7]naphthyridine | 4.60 mmol, 2.20 g | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3)C)OCCOC)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C27H33N3O5
reactant | NBS | 4.60 mmol, 0.84 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | (7R,8R,9R)-10-Acetyl-3-bromo-7-(2-methoxyethoxy)-2-methyl-9-phenyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridine | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3Br)C)OCCOC)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C27H32BrN3O5
